US08202885B2
BB5.2 [3-(4-Isopropoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine
Prepared from 3-isopropoxy-benzene-1,2-diamine in analogy to the methods described for [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | 3-isopropoxy-benzene-1,2-diamine | C(C)(C)OC1=C(C(=CC=C1)N)N | C9H14N2O
reactant | [3-(5,6-dimethoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | COC1=CC2=C(NC(=N2)CCCNC)C=C1OC | C13H19N3O2
product | [3-(4-Isopropoxy-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | C(C)(C)OC1=CC=CC=2NC(=NC21)CCCNC | C14H21N3O
